US08470819B2
Step A: Preparation of tert-butyl 3-{[(trifluoromethyl)sulfonyl]oxy}-2,5-dihydro-1H-pyrrole-1-carboxylate (i-16a)
Lithium hexamethyldisilazane (5.50 mL of a 1.0 M ether solution, 5.50 mmol) was added to a solution of tert-butyl 3-oxopyrrolidine-1-carboxylate (925 mg, 5.00 mmol) in THF (15.0 mL) at −78° C., After 1 h, a solution of 2-[N,N-bis(trifluoromethylsulfonyl)amino]-5-chloropyridine (2.16 g, 5.50 mmol) in THF (10.0 mL) was added dropwise, and the resulting mixture was allowed to stir at −78° C. After 2 h, the reaction mixture was quenched with satd. aq. NH4Cl and extracted with EtOAc, The combined organics were washed with water and brine, dried (sodium sulfate), and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 1%-2% EtOAc/petroleum ether as eluent) afforded the title compound i-16a.

reactant | Lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | ether | 1.0 M | CCOCC | C4H10O
reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 5.00 mmol, 925 mg | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | 2-[N,N-bis(trifluoromethylsulfonyl)amino]-5-chloropyridine | 5.50 mmol, 2.16 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
solvent | THF | 15.0 mL | C1CCOC1 | C4H8O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-{[(trifluoromethyl)sulfonyl]oxy}-2,5-dihydro-1H-pyrrole-1-carboxylate | FC(S(=O)(=O)OC=1CN(CC1)C(=O)OC(C)(C)C)(F)F | C10H14F3NO5S
